US09193716B2
Step A: N-Hydroxy-3-iodo-4-isopropoxybenzimidamide
A suspension of 3-iodo-4-isopropoxybenzonitrile (0.576 g; 2 mmol), HCl×NH2OH (0.276 g; 4 mmol) and DIPEA (0.69 ml; 4 mmol) in EtOH (50 ml) was stirred for 18 h at 50° C. The solvent was distilled off and the residue was diluted to 50 ml with EtOAc and washed with H2O. The organic layer was separated, dried over MgSO4 and filtered. The filtrate was distilled off to give the title product (0.61 g; 95%), as colourless solid. 1H-NMR (CDCl3) 8.0 (d, 1H, J=2.22 Hz); 7.55 (dd, 1H, J=9.54, 2.28 Hz); 6.77 (d, 1H, J=8.7 Hz); 4.95 (b, 2H); 4.69-4.63 (m, 1H); 1.42 (d, 6H).

reactant | 3-iodo-4-isopropoxybenzonitrile | 2 mmol, 0.576 g | IC=1C=C(C#N)C=CC1OC(C)C | C10H10INO
reactant | HCl | Cl | ClH
reactant | NH2OH | 4 mmol, 0.276 g | NO | H3NO
reactant | DIPEA | 4 mmol, 0.69 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 50 ml | CCO | C2H6O
product | N-Hydroxy-3-iodo-4-isopropoxybenzimidamide | 0.61 g, 95% | ONC(C1=CC(=C(C=C1)OC(C)C)I)=N | C10H13IN2O2
